Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Valium / morphine / Penicillins / quinine
 
Attending: ___.
 
Chief Complaint:
Abnormal Ct, Abnormal EKG
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of COPD, MI and L breast cancer s/p mastectomy
who presented to ___ with left chest/abdominal pain,
found to have gastric volvulus and nonspecific EKG changes,
transferred to ___ for surgical consult. 

She reports diffuse abdominal pain starting 1 day prior to
presentation, worse on left side, slight radiation into back. No
N/V. Denies CP, SOB, palpitations, cough, fever, chills,
diarrhea, constipation. Reports poor appetite but was able to
tolerate small PO. She felt unwell and fatigued, so presented to
care. At ___, EKG found to have nonspecific ST-T wave
changes without prior comparison EKG, with a negative trop. CT
scan showed a hiatal hernia with organoaxial gastric volvulus.
She was transferred to ___ for surgical evaluation. 
 
Past Medical History:
COPD 
MI ("slight" per patient. no stents, no prior cath per patient.) 

left breast cancer and mastectomy (___) 
h/o thrombocytopenia (patient reports ___ admission with
thrombocytopenia around ___, unsure the cause) 
ovarian cysts 
OA 
 
Past Surgical/Procedure History: 
History of Appendectomy and Cholecystectomy.
bl knee surgeries
 
Social History:
___
Family History:
Mother ETOH abuse 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS:  98.5PO 161 / 71 70 18 95 ra 
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes,
edentulous. Oropharynx is clear.  
NECK: supple. No cervical lymphadenopathy.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Scattered wheezing bilaterally. Comfortable on RA. 
BACK: no CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, soft, mildly TTP 
in
RUQ and LUQ/LLQ. No rebound or guarding.   
EXTREMITIES: mild soft tissue edema ___ but no pitting edema.
Pulses DP/Radial 2+ bilaterally.  
SKIN: No rashes 
NEUROLOGIC: A&Ox3, fluent speech, no facial droop, moving all
extremities with purpose 

DISCHARGE PHYSICAL EXAM:  
Vitals:  98.1 125/65 8618 95 Ra
General: NAD, sitting up in bed having finished her breakfast
well tolerated
HEENT: AT/NC, EOMI, no JVD, neck supple
CV: RRR, s1+s2 normal, no m/g/r appreciated
Pulm: CTAB
Abd: +BS, tenderness to deep palpation on LUQ however endorsed
much improved to prior, non-distended, no organomegaly
Ext: Evidence of chronic venous stasis swelling with exposed
veins, however no pitting edema, warm, pulses present
Neuro: No motor/sensory deficits elicited
 
Pertinent Results:
ADMISSION LABS:
___ 11:20AM URINE  HOURS-RANDOM
___ 11:20AM URINE  UHOLD-HOLD
___ 11:20AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 11:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 11:20AM URINE  RBC-2 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-4
___ 11:20AM URINE  MUCOUS-RARE*
___ 09:00AM   cTropnT-<0.01
___ 04:45AM   GLUCOSE-99 UREA N-14 CREAT-0.8 SODIUM-140 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-22 ANION GAP-16
___ 04:45AM   estGFR-Using this
___ 04:45AM   ALT(SGPT)-8 AST(SGOT)-18 ALK PHOS-80 TOT 
BILI-0.4
___ 04:45AM   LIPASE-34
___ 04:45AM   ALBUMIN-3.6 CALCIUM-8.7 PHOSPHATE-3.5 
MAGNESIUM-1.9
___ 04:45AM   WBC-7.6 RBC-4.17 HGB-13.5 HCT-41.7 MCV-100* 
MCH-32.4* MCHC-32.4 RDW-13.6 RDWSD-49.9*
___ 04:45AM   WBC-7.6 RBC-4.17 HGB-13.5 HCT-41.7 MCV-100* 
MCH-32.4* MCHC-32.4 RDW-13.6 RDWSD-49.9*
___ 04:45AM   NEUTS-54.4 ___ MONOS-9.4 EOS-2.8 
BASOS-0.7 IM ___ AbsNeut-4.15 AbsLymp-2.44 AbsMono-0.72 
AbsEos-0.21 AbsBaso-0.05
___ 04:45AM   PLT COUNT-239
___ 04:45AM   ___ PTT-27.0 ___

DISCHARGE LABS:
___ 05:55AM BLOOD WBC-5.9 RBC-3.84* Hgb-12.3 Hct-38.1 
MCV-99* MCH-32.0 MCHC-32.3 RDW-13.7 RDWSD-49.7* Plt ___
___ 05:55AM BLOOD Plt ___
___ 05:55AM BLOOD Glucose-93 UreaN-17 Creat-0.8 Na-142 
K-4.3 Cl-104 HCO3-27 AnGap-11
___ 05:55AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.9

IMAGING:
___ CTA Chest:
1. No evidence of pulmonary embolism or aortic abnormality.
2. Large hiatal hernia containing the stomach and a loop of 
transverse colon.
3. Bilateral lower lobe predominant subpleural fibrosis may 
represent sequela for chronic aspiration.

MICRO:
___ 11:20 am URINE      ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.
 
Brief Hospital Course:
___ w/ COPD, h/o MI, h/o L breast cancer s/p mastectomy who 
presented to ___ w/ L abdominal pain, found to have 
gastric volvulus and nonspecific EKG changes.

#Abdominal pain:
#Gastric volvulus:
#Hiatal hernia:
Concern on transfer for abdominal pain related to gastric 
volvulus vs cardiac etiology. Cardiac etiology of 
abdominal/chest ruled out given negative trops x2, EKG in sinus 
bradycardia here without obvious ischemic changes. OSH CTA 
negative. Regarding gastric volvulus, in the setting of known 
hiatal hernia, she has no N/V to suggest clear obstructive s/s 
at this point. Thoracic surgery cleared her from their 
perspective and signed off. She is passing gas and tolerating PO 
intake well and her pain has improved spontaneously. She did 
experience a brief recurrence of her pain on hospital day 2 
after eating, but this self-resolved. It was explained that she 
may have intermittent mild degrees of partial volvulus and 
should seek care should this worsen or be accompanied by 
nausea/vomiting. At this time however no further investigation 
or treatment is warranted. 

#Chronic obstructive pulmonary disease: Not on home O2, not on 
home inhalers per patient. No respiratory complaints this 
admission.

#Osteoarthritis: tylenol prn for pain control. 

TRANSITIONAL ISSUES:
====================
-Follow-up: PCP
-___ medications: none
-Please monitor her GI symptoms and consider outpatient surgery 
referral for her hiatal hernia.
-Labs: hgb 12.3, cr 0.8 upon discharge
-Code status: Full (presumed)
-Contact: ___ (son) ___

>30 minutes in patient care and coordinatio of discharge on 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D Dose is Unknown  PO DAILY 
2. Calcium Acetate Dose is Unknown  PO TID W/MEALS 
3. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Calcium Acetate 1334 mg PO TID W/MEALS  
2.  Vitamin D 1000 UNIT PO DAILY  
3.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
==================
Gastric volvulus
Hiatal hernia

Secondary diagnosis:
====================
Chronic obstructive pulmonary disease
History of myocardial infarction

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
___,

You were admitted for left-sided abdominal pain. You were found 
to have a twisting of your stomach and a hiatal hernia, but you 
were able to eat without difficulty. Surgery saw you and felt 
that you did not need surgery. Please follow-up with your 
primary care doctor and continue taking your medications as 
directed.

It was a pleasure caring for you,

-___ medical care team
 
Followup Instructions:
___